US09403832B2
Part A. 4-(3-Bromo-pyrazolo[1,5-a]pyrimidin-5-yl)-piperazine-1-carboxylic acid 4-nitrophenyl ester
To 2.00 g (7.09 mmol) of 3-bromo-5-piperazin-1-yl-pyrazolo[1,5-a]pyrimidine dissolved in 40 mL of EtOAc at 0° C., was added 1.71 g (8.51 mmol) of 4-nitrophenyl carbonochloridate, followed by 1.97 mL (14.18 mmol) of TEA. After 5 minutes stirring at 0° C., the ice bath was removed, and stirring continued at RT for about 2 hr. It was diluted with 50 mL of 50% EtOAc/hex. The desired product was filtered out, and dried to obtain 3.17 g (100% yield) of an off-white solid.

reactant | 3-bromo-5-piperazin-1-yl-pyrazolo[1,5-a]pyrimidine | 7.09 mmol, 2.00 g | BrC=1C=NN2C1N=C(C=C2)N2CCNCC2 | C10H12BrN5
reactant | 4-nitrophenyl carbonochloridate | 8.51 mmol, 1.71 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 4-(3-Bromo-pyrazolo[1,5-a]pyrimidin-5-yl)-piperazine-1-carboxylic acid 4-nitrophenyl ester | 3.17 g, 100% yield | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1CCN(CC1)C1=NC=2N(C=C1)N=CC2Br | C17H15BrN6O4
